US04874775
N-(pyridin-3-ylmethyl)-N-[4-(2,2,2-trifluoroethoxy)phenyl]-methanesulfonamide
A 4.2 g. portion of 3-[4-(2,2,2-trifluoroethoxy)phenylaminomethyl]pyridine was dissolved in 15 ml. of dichloromethane, and to it were added 2.7 g. of potassium carbonate and 1.6 ml. of methanesulfonyl chloride. The mixture was stirred at ambient temperature for 3 days, and it was then diluted with dichloromethane, extracted with 25 ml. of water, dried over magnesium sulfate and evaporated to an oil. The residue was taken up in diethyl ether, and the insoluble portion was separated. The product slowly crystallized upon standing, and the solids were triturated with petroleum ether and washed with diethyl ether and petroleum ether to obtain 3.7 g. of the desired product, m.p. 69°-70°.

reactant | 3-[4-(2,2,2-trifluoroethoxy)phenylaminomethyl]pyridine | FC(COC1=CC=C(C=C1)NCC=1C=NC=CC1)(F)F | C14H13F3N2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(pyridin-3-ylmethyl)-N-[4-(2,2,2-trifluoroethoxy)phenyl]-methanesulfonamide | N1=CC(=CC=C1)CN(S(=O)(=O)C)C1=CC=C(C=C1)OCC(F)(F)F | C15H15F3N2O3S
